US07820823B2
4-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-piperidin-1-carboxylic Acid Benzyl Ester
A solution of 2.65 g of 4-{4-[4-{(5R)-5-azidomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenyl]-piperazin-1-yl}-piperidin-1-carboxylic acid benzyl ester (4.93 mmol), 1.55 g triphenylphosphine (5.91 mmol) and 0.88 g water (49.3 mmol) in 40 ml THF was stirred at reflux for 22 hrs. The reaction was controlled by TLC. The THF was evaporated and the residue dissolved in 10 ml acetic acid and 2 ml of acetic anhydride. the reaction was monitored by TLC. The solvents were evaporated and the residue crystallized from ethyl acetate.

reactant | 4-{4-[4-{(5R)-5-azidomethyl-2-oxo-oxazolidin-3-yl}-2-fluoro-phenyl]-piperazin-1-yl}-piperidin-1-carboxylic acid benzyl ester | 4.93 mmol, 2.65 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F | C27H32FN7O4
reactant | triphenylphosphine | 5.91 mmol, 1.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 49.3 mmol, 0.88 g | O | H2O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-(4-{4-[(5S)-5-(Acetylamino-methyl)-2-oxo-oxazolidin-3-yl]-2-fluoro-phenyl}-piperazin-1-yl)-piperidin-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C29H36FN5O5
